* ---------------------------------------------------------------------------
* gmint - behavioral OTA gm-C integrator (voltage-controlled cutoff)
*
* Pins:  inp out gc vref      params: quack, cint, wpark, ksweep
*
* Models an OTA (transconductance gm) driving an integrating cap Cint:
*   Cint * dV(out)/dt = gm * (V(inp) - V(vref))      ->   dV/dt = w0 * (inp-vref)
* with the corner (filter cutoff) controlled by a GROUND-REFERENCED control gc:
*   w0 = gm/Cint = wpark + quack*ksweep*max(V(gc), 0)        gc >= 0, 0 = parked
*
* Two deliberate robustness choices:
*  - output current is sourced from ground (the rails), never from vref - a real
*    OTA does not load the virtual ground with its output current.
*  - cutoff control is gc (ground referenced), NOT (cv - vref). Tying gm to vref
*    made the high-gain loop latch into a spurious collapsed-vref DC solution.
*  - Rlk sets a finite integrator DC gain (~60) so the loop has a well-defined
*    operating point; its leak pole (~3 Hz) is far below the audio band.
* ---------------------------------------------------------------------------
.subckt gmint inp out gc vref params: quack=1 cint=10n wpark=1257 ksweep=36000
Bgm  0    out I = {cint}*(wpark + quack*ksweep*max(V(gc),0))*(V(inp)-V(vref))
Cint out  vref {cint}
Rlk  out  vref 4.7meg
.ends gmint
